US07125900B2
Ethyl 2-{[(2,4-dichloro-6-methylphenyl)sulfonyl]amino}-4-methyl-1,3-thiazole-5-carboxylate
This compound was prepared from ethyl 2-amino-4-methylthiazole-5-carboxylate and 2,4-dichloro-6-methylbenzenesulfonyl chloride as described for EXAMPLE 30. Yield 254 mg, 62%: 1H NMR (DMSO) δ 7.64 (d, 1H), 7.53 (d, 1H), 4.22 (q, 2H), 2.67 (s, 3H), 2.41 (s, 3H), 1.25 (t, 3H); MS-ES (neg) In/z 407.1.

reactant | ethyl 2-amino-4-methylthiazole-5-carboxylate | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | 2,4-dichloro-6-methylbenzenesulfonyl chloride | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)Cl | C7H5Cl3O2S
product | Ethyl 2-{[(2,4-dichloro-6-methylphenyl)sulfonyl]amino}-4-methyl-1,3-thiazole-5-carboxylate | ClC1=C(C(=CC(=C1)Cl)C)S(=O)(=O)NC=1SC(=C(N1)C)C(=O)OCC | C14H14Cl2N2O4S2
